US05627215
(E)-1-Allyl-14-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.55 g (0.805 mmol) of (E)-1-allyl-14-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 8.2 ml of 3N methanolic hydrochloric acid is reacted analogously to Example 8. The resulting title compound melts at >260° C. 1H-NMR (D2O): δ0.97(t,3H); 1.63-1.76(m,2H); 2.05-2.16(m,4H); 3.02(t,2H); 3.11-3.19(m,8H); 3.69(d,2H); 3.77(d,4H); 5.48-5.55(m,2H); 5.83-5.98(m,1H); 6.04-6.07(m,2H).

reactant | (E)-1-allyl-14-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0.805 mmol, 0.55 g | C(C=C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CCC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H66N4O8
reactant | hydrochloric acid | 3N, 8.2 ml | Cl | ClH
product | (E)-1-Allyl-14-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C=C)NCCCNC\C=C\CNCCCNCCC | InChI=1S/C16H34N4.4ClH/c1-3-9-17-13-7-15-19-11-5-6-12-20-16-8-14-18-10-4-2;;;;/h3,5-6,17-20H,1,4,7-16H2,2H3;4*1H/b6-5+;;;;
